US04269788
Preparation of α-methyl-N,N-diethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine hydrochloride
To 27.5 ml. (about 6 equivalents) of diethylamine and 10 g. of molecular sieve 3A in 200 ml. of methanol are added at 0° C. 17.6 ml. of 5 N methanolic hydrochloric acid (2 equivalents) and then 9.4 g. of (1-phenyl-2,5-cyclohexadien-1-yl)-2-propanone in a small amount of methanol and finally 1.95 g. (0.7 equivalents) of sodium cyanoborohydride. The mixture is stirred at room temperature for 5 days and then worked-up in exactly the same manner as described in Example 16. There is obtained an oily residue which is chromatographed on a silica gel thick-layer plate with ethyl acetate/triethylamine (15:1). Two products are scratched off and eluted with methylene chloride/methanol (4:1). The product of RF 0.32 is α-methyl-N-ethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine. The other product (RF 0.54) is the desired product, namely, α-methyl-N,N-diethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine. This is converted as usual into the hydrochloride and recrystallized from methylene chloride/ether. According to melting point and mixed melting point, the product is identical with that obtained in accordance with Example 18.

reactant | diethylamine | about 6 equivalents | C(C)NCC | C4H11N
reactant | hydrochloric acid | 5 N, 2 equivalents | Cl | ClH
reactant | (1-phenyl-2,5-cyclohexadien-1-yl)-2-propanone | C1(=CC=CC=C1)C1(C=CCC=C1)CC(C)=O | C15H16O
reactant | sodium cyanoborohydride | 0.7 equivalents | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | α-methyl-N,N-diethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine hydrochloride | Cl.CC(CC1(C=CCC=C1)C1=CC=CC=C1)N(CC)CC | InChI=1S/C19H27N.ClH/c1-4-20(5-2)17(3)16-19(14-10-7-11-15-19)18-12-8-6-9-13-18;/h6,8-15,17H,4-5,7,16H2,1-3H3;1H
